US05663175
Preparation of 9-{[1(R)-hydroxymethyl-2(S)-cyclohexyl]methyl}guanine (XIV)
A solution of 9-{[1(R)-acetoxymethyl-2(S)-cyclohexyl]methyl}guanine (0.75 mmol), aqueous methanol (2 mL) and potassium carbonate (3 eq) were stirred at room temperature for 3 hours. The reaction was concentrated and the desired compound purified by silica gel chromatography (chloroform:methanol:water 90:10:1). 1HNMR (500 mHz, d6 -DMSO); 10.44 ppm (bs, 1H); 7.66 (s, 1H); 6.39 (bs, 2H); 4.46 (t, 2H); 3.90 (m, 2H), 3.55-3.30 (m, 2H, partially obscured by water); 2.18 (m, 1H); 1.8-1.1 (m, 9H).

reactant | 9-{[1(R)-acetoxymethyl-2(S)-cyclohexyl]methyl}guanine | 0.75 mmol | C(C)(=O)OC[C@H]1[C@H](CCCC1)CN1C=2N=C(NC(C2N=C1)=O)N | C15H21N5O3
reactant | potassium carbonate | 3 eq | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 2 mL | CO | CH4O
product | 9-{[1(R)-hydroxymethyl-2(S)-cyclohexyl]methyl}guanine | OC[C@H]1[C@H](CCCC1)CN1C=2N=C(NC(C2N=C1)=O)N | C13H19N5O2
